US04654363
Step N: Preparation of trans-6-[2-(2,4,7-Trichloronaphthalen-1-yl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one
A solution of potassium hydroxide (0.1 g, 1.5 mmole) in water (2 ml) was added dropwise to a solution of methyl 7-(2,4,7-trichloronaphthalene-1-yl)-3,5-dihydroxyheptanoate (0.22 g, 0.7 mmole) in methanol (10 ml) with cooling (ice bath). The bath was removed and the reaction mixture stirred at room temperature for one hour and then concentrated in vacuo. The residue was diluted with ice and water, acidified with dilute aqueous HCl and extracted with ether. The ether extracts were combined, washed with water and brine and dried over MgSO4. The ether solution was filtered and concentrated in vacuo to give a yellow oil, which was taken up in toluene (75 ml). After heating at reflux for 4 hours, using a Soxhlet Apparatus containing molecular sieves, the toluene solution was concentrated in vacuo to give a viscous yellow oil (0.2 g). This material was chromatographed using a 30 mm flash column containing 50 g of silica gel (230-400 mesh) eluting with 5% acetone in methylene chloride (v/v) to give 0.035 g of the title compound as a white crystalline solid, mp 111°-115° C.

reactant | potassium hydroxide | 1.5 mmole, 0.1 g | [OH-].[K+]
reactant | methyl 7-(2,4,7-trichloronaphthalene-1-yl)-3,5-dihydroxyheptanoate | 0.7 mmole, 0.22 g | ClC1=C(C2=CC(=CC=C2C(=C1)Cl)Cl)CCC(CC(CC(=O)OC)O)O | C18H19Cl3O4
solvent | water | 2 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | trans-6-[2-(2,4,7-Trichloronaphthalen-1-yl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 0.2 g | ClC1=C(C2=CC(=CC=C2C(=C1)Cl)Cl)CC[C@H]1C[C@@H](CC(O1)=O)O | C17H15Cl3O3
